US08957203B2
Step 1: Preparation of 4-(2,6-dimethylmorpholino)-6-methoxyisoquinolin-1(2H)-one
To a solution of 4-bromo-6-methoxyisoquinolin-1(2H)-one (0.2 g, 0.787 mmol) and (2S,6R)-2,6-dimethylmorpholine (0.181 g, 1.574 mmol) in ethylene glycol (2.5 ml) was added DIPEA (0.412 ml, 2.361 mmol). The reaction was irradiated in microwave at 145° C. for 1.5 h. The reaction mixture was adsorbed on silica was purified by silica gel chromatography (30% ethyl acetate in pet ether) to get desired compound (0.11 g, 48.5%) as solid. MS: MS m/z 289.18 (M++1).

reactant | 4-bromo-6-methoxyisoquinolin-1(2H)-one | 0.787 mmol, 0.2 g | BrC1=CNC(C2=CC=C(C=C12)OC)=O | C10H8BrNO2
reactant | (2S,6R)-2,6-dimethylmorpholine | 1.574 mmol, 0.181 g | C[C@H]1CNC[C@H](O1)C | C6H13NO
reactant | DIPEA | 2.361 mmol, 0.412 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | ethylene glycol | 2.5 ml | C(CO)O | C2H6O2
product | 4-(2,6-dimethylmorpholino)-6-methoxyisoquinolin-1(2H)-one | 0.11 g, 48.5% | CC1OC(CN(C1)C1=CNC(C2=CC=C(C=C12)OC)=O)C | C16H20N2O3
